* scratch check v3: envelope decay comparison R=0.1 vs R=1
.param tr=1n
V1 n1 0 PULSE(0 10 0 {tr} {tr} 5000n 10000n)
L1 n1 n2 40n
R1 n2 n3 0.1
C1 n3 0 0.1n
.control
tran 5p 3u
meas tran pk1_r01 MAX v(n3) FROM=0 TO=12.5n
meas tran pk2_r01 MAX v(n3) FROM=12.5n TO=25n
meas tran pk3_r01 MAX v(n3) FROM=25n TO=37.5n
meas tran pk4_r01 MAX v(n3) FROM=37.5n TO=50n
print pk1_r01 pk2_r01 pk3_r01 pk4_r01
alterparam tr=1n
reset
alter R1=1
tran 5p 3u
meas tran pk1_r1 MAX v(n3) FROM=0 TO=12.5n
meas tran pk2_r1 MAX v(n3) FROM=12.5n TO=25n
meas tran pk3_r1 MAX v(n3) FROM=25n TO=37.5n
meas tran pk4_r1 MAX v(n3) FROM=37.5n TO=50n
print pk1_r1 pk2_r1 pk3_r1 pk4_r1
.endc
.end
