* netlist auto-generated by asc_to_net.py from bjt_base_drive.asc
V1 N001 0 12
RC N001 ncoll 0.02
I1 0 nbase 2
Q1 ncoll nbase 0 QNPN
.model QNPN NPN(BF=50)
.control
op
print v(ncoll) v(nbase) @q1[ic] @q1[ib] @q1[ie] @q1[vbe]
write chapter02/bjt_base_drive.raw
.endc
.end
