* netlist auto-generated by asc_to_net.py from bridge_rectifier.asc
D1 N001 vout DMOD
D3 0 N001 DMOD
D2 N002 vout DMOD
D4 0 N002 DMOD
V1 N003 N002 SIN(0 141 50)
Rsrc N003 N001 5
C1 vout 0 1000u
R1 vout 0 100
.model DMOD D(Is=1e-9 N=1.0 Rs=0.001)
.options reltol=0.01 gmin=1e-9
.control
alter C1 = 1000u
tran 10u 200m
alter C1 = 100u
tran 10u 200m
write chapter08/bridge_rectifier.raw all
.endc
.end
