* netlist auto-generated by asc_to_net.py from hbridge_pwm_bipolar.asc
V1 N001 0 100
S1 N001 a ctrlA 0 SW
S2 a 0 ctrlAn 0 SW
S3 N001 b ctrlAn 0 SW
S4 b 0 ctrlA 0 SW
R1 a N002 10
L1 N002 b 10m
Bcarr carr 0 V=(2/pi*asin(sin(2*pi*fc*time)))
Bref ref 0 V=(m*sin(2*pi*fm*time))
BctrlA ctrlA 0 V=((V(ref)>V(carr))?1:0)
BctrlAn ctrlAn 0 V=((V(ref)<V(carr))?1:0)
.model SW SW(Ron=10m Roff=1G Vt=0.5)
.param E=100 fc=5k fm=50 m=0.8 R=10 L=10m
.options reltol=0.01 gmin=1e-9
.control
* m=0.5
alterparam m = 0.5
reset
tran 0.5u 40m 20m 2u
let vab = v(a) - v(b)
let sinref = sin(2*3.14159265358979*50*time)
let ib = vab*sinref
meas tran vmax_m05 max vab from=20m to=39.9m
meas tran ib_m05 integ ib from=20m to=39.9m
* m=0.8 (主要ケース, ex9.6(a)(b)(c)の基準)
alterparam m = 0.8
reset
tran 0.5u 40m 20m 2u
let vab = v(a) - v(b)
let sinref = sin(2*3.14159265358979*50*time)
let ib = vab*sinref
meas tran vmax_m08 max vab from=20m to=39.9m
meas tran vmin_m08 min vab from=20m to=39.9m
meas tran irms_m08 rms i(l1) from=20m to=39.9m
meas tran ipeak_m08 max i(l1) from=20m to=39.9m
meas tran ib_m08 integ ib from=20m to=39.9m
linearize vab
fft vab
* m=1.0
alterparam m = 1.0
reset
tran 0.5u 40m 20m 2u
let vab = v(a) - v(b)
let sinref = sin(2*3.14159265358979*50*time)
let ib = vab*sinref
meas tran vmax_m10 max vab from=20m to=39.9m
meas tran ib_m10 integ ib from=20m to=39.9m
* m=1.2 (過変調)
alterparam m = 1.2
reset
tran 0.5u 40m 20m 2u
let vab = v(a) - v(b)
let sinref = sin(2*3.14159265358979*50*time)
let ib = vab*sinref
meas tran vmax_m12 max vab from=20m to=39.9m
meas tran ib_m12 integ ib from=20m to=39.9m
write chapter09/hbridge_pwm_bipolar.raw all
.endc
.end
