* netlist auto-generated by asc_to_net.py from igbt_equivalent_von.asc
M1 vcol N001 vmid vmid MYNMOS
D1 vmid 0 DMOD
VGG N001 0 15
Isweep 0 vcol 0.1
.model MYNMOS NMOS(LEVEL=1 VTO=3 KP=2)
.model DMOD D(Is=1e-9 N=1.0 Rs=0.001)
.control
dc Isweep 0.1 60 0.1
print v(vcol) v(vmid)
write chapter02/igbt_equivalent_von.raw
.endc
.end
