* netlist auto-generated by asc_to_net.py from lc_filter_square_wave.asc
V1 N001 0 PULSE(0 12 0 1n 1n 5u 10u)
L1 N001 N002 100u
C1 N002 0 10u
R1 N002 0 6
.tran 0.01u 300u 250u 0.01u
.end
