* netlist auto-generated by asc_to_net.py from linear_reg_opamp.asc
V4 N001 0 10
Q1 N001 N002 vout QNPN3
R3 vout vfb 6k
R4 vfb 0 12k
R2 vout 0 10
V3 vref 0 PULSE(0 5 0.2m 10n 10n 10m)
E1 N002 0 vref vfb 1e5
.model QNPN3 NPN(BF=100)
.control
alter R2 = 10
tran 2u 5m
alter R2 = 50
tran 2u 5m
alter R2 = 100
tran 2u 5m
write chapter07/linear_reg_opamp.raw all
.endc
.end
