* netlist auto-generated by asc_to_net.py from linear_reg_zener.asc
V1 N001 0 10
R2 N001 vref 400
D1 0 vref DZ4V7
Q1 N001 vref vout QNPN3
R1 vout 0 10
.model QNPN3 NPN(BF=100)
.model DZ4V7 D(Is=1e-9 N=1.0 Rs=1 BV=4.7 IBV=0.005)
.control
alter R1 = 10
tran 10u 1m
alter R1 = 50
tran 10u 1m
alter R1 = 100
tran 10u 1m
write chapter07/linear_reg_zener.raw all
.endc
.end
