* netlist auto-generated by asc_to_net.py from mosfet_output_char.asc
M1 vd vg 0 0 MYNMOS
VDS vd 0 0
VGS vg 0 2
.model MYNMOS NMOS(LEVEL=1 VTO=3 KP=2)
.control
dc VDS 0 10 0.2 VGS 2 5 1
print v(vd) v(vg) i(vds)
write chapter02/mosfet_output_char.raw
.endc
.end
