* netlist auto-generated by asc_to_net.py from phase_control_r_load.asc
Vin vin_p 0 SIN(0 141 50)
Rsrc vin_p vline 0.5
Rload vline mid 100
Q2p gbasep bbasep mid QPNP2
Q1p bbasep gbasep 0 QNPN2
Rshuntp gbasep 0 1k
Igatep 0 gbasep PULSE(0 10m {adelp} 1u 1u 1m 20m)
Q2n gbasen bbasen 0 QPNP2
Q1n bbasen gbasen mid QNPN2
Rshuntn gbasen mid 1k
Igaten mid gbasen PULSE(0 10m {adeln} 1u 1u 1m 20m)
.param adelp=1.6667m
.param adeln=11.6667m
.model QNPN2 NPN(BF=50)
.model QPNP2 PNP(BF=50)
.control
tran 10u 100m
meas tran irms_a30 RMS i(Vin) FROM=60m TO=99.9m
alterparam adelp = 3.3333m
alterparam adeln = 13.3333m
reset
tran 10u 100m
meas tran irms_a60 RMS i(Vin) FROM=60m TO=99.9m
alterparam adelp = 5.0m
alterparam adeln = 15.0m
reset
tran 10u 100m
meas tran irms_a90 RMS i(Vin) FROM=60m TO=99.9m
alterparam adelp = 6.6667m
alterparam adeln = 16.6667m
reset
tran 10u 100m
meas tran irms_a120 RMS i(Vin) FROM=60m TO=99.9m
alterparam adelp = 8.3333m
alterparam adeln = 18.3333m
reset
tran 10u 100m
meas tran irms_a150 RMS i(Vin) FROM=60m TO=99.9m
write chapter10/phase_control_r_load.raw all
.endc
.end
