* netlist auto-generated by asc_to_net.py from phase_control_rl_load.asc
Vin vin_p 0 SIN(0 141 50)
Rsrc vin_p vline 0.5
Rload vline rl_mid 100
Lload rl_mid mid 300m
Q2p gbasep bbasep mid QPNP2
Q1p bbasep gbasep 0 QNPN2
Rshuntp gbasep 0 1k
Igatep 0 gbasep PULSE(0 10m 3.3333m 1u 1u 1m 20m)
Q2n gbasen bbasen 0 QPNP2
Q1n bbasen gbasen mid QNPN2
Rshuntn gbasen mid 1k
Igaten mid gbasen PULSE(0 10m 13.3333m 1u 1u 1m 20m)
.model QNPN2 NPN(BF=50)
.model QPNP2 PNP(BF=50)
.control
tran 5u 100m
write chapter10/phase_control_rl_load.raw all
.endc
.end
