* netlist auto-generated by asc_to_net.py from pn_junction_iv.asc
V1 N001 0 0
R1 N001 N002 1k
D1 N002 0 DMOD
.model DMOD D(Is=1e-14 N=1.0 Rs=0.1)
.dc V1 -5 1 0.01
.end
