* netlist auto-generated by asc_to_net.py from ringing_lrc_step.asc
V1 N001 0 PULSE(0 10 0 {tr} {tr} 5000n 10000n)
Lp N001 N002 40n
R1 N002 vcp 0.1
Cp vcp 0 0.1n
.param tr=1n
.control
tran 5p 3u
meas tran vpeak_a MAX v(vcp) FROM=0 TO=200n
meas tran t_zc1_a WHEN v(vcp)=10 RISE=2
meas tran t_zc2_a WHEN v(vcp)=10 RISE=3
meas tran pk2_a MAX v(vcp) FROM=12.5n TO=25n
meas tran pk3_a MAX v(vcp) FROM=25n TO=37.5n
print vpeak_a t_zc1_a t_zc2_a pk2_a pk3_a
alterparam tr=100n
reset
tran 5p 3u
meas tran vpeak_b1 MAX v(vcp) FROM=0 TO=1000n
print vpeak_b1
alterparam tr=1n
reset
alter R1=1
tran 5p 3u
meas tran vpeak_b2 MAX v(vcp) FROM=0 TO=12.5n
meas tran pk2_b2 MAX v(vcp) FROM=12.5n TO=25n
meas tran pk3_b2 MAX v(vcp) FROM=25n TO=37.5n
print vpeak_b2 pk2_b2 pk3_b2
write chapter11/ringing_lrc_step.raw all
.endc
.end
